datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:8])([H:6])[H:7],37.8234
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([C:17]([H:33])([H:34])[H:35])[c:18]1[c:19]([H:36])[c:20]([H:37])[c:21]([H:38])[c:22]([H:39])[c:23]1[H:40])[c:24]1[c:25]([H:41])[c:26]([H:42])[c:27]([H:43])[c:28]([H:44])[c:29]1[H:45])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:30])([H:31])[H:32])([C:16]([C:17]([H:33])([H:34])[H:35])[c:18]1[c:19]([H:36])[c:20]([H:37])[c:21]([H:38])[c:22]([H:39])[c:23]1[H:40])[c:24]1[c:25]([H:41])[c:26]([H:42])[c:27]([H:43])[c:28]([H:44])[c:29]1[H:45])[H:7])([H:5])[H:6],55.6472
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[O:7][O:8])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])=[C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])([H:9])([H:10])[H:11].[O:7][O:8][H:15],123.8464
[O:0]=[C:1][C:2](=[C:3]([C:4](=[C:5]([C:6](=[O:7])[H:12])[H:11])[H:10])[H:9])[H:8]>>[O:0]=[C:1]1[C:2]([H:8])=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]([H:12])[O:7]1,50.885808
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23])[H:10])([H:8])[H:9],12.7194
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[C:18]([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])[H:17])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:15][C:18]([H:19])([H:20])[H:21],29.928152
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:15])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])[H:14])([H:12])[H:13],26.3592
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])[C:4]([H:12])([C:15]([H:16])([H:17])[H:18])[C:5]([H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],41.6199
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[O:18][O:19][H:20]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[O:18][O:19][H:20])([H:6])([H:7])[H:8],11.2968
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[O:5][O:6][H:17])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[O:5]1.[O:6][H:17],40.1664
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[S:14][H:16])[H:7])([H:5])[H:6].[H:15],135.562
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5](=[S:6])[H:9])([H:7])[H:8]>>[C:0](=[S:1])[H:3].[H:2][C:4]([C:5](=[S:6])[H:9])([H:7])[H:8],84.0984
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20][C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:20](=[C:19]([H:23])[H:24])[C:21](=[C:22]([H:26])[H:27])[H:25],45.6056
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[C:31]([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:10][C:31]([H:32])([H:33])[H:34],0.0
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([S:7])([H:8])([H:9])[H:10]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[S:7][C:6]([H:8])([H:9])[H:10],5.4392
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:4])[C:9]([H:3])([H:10])[H:11],-3.91204
